US07893056B2
5-Fluoro-2-methyl-6-[(2-pyridinylmethyl)amino]-4(1H)-pyrimidinone hydrazone (0.0954 g, 0.3846 mmol) and (2R)-3-cyclopentyl-2-({formyl[(phenylmethyl)oxy]amino}methyl)propanoic acid (0.141 g, 0.4622 mmol) were dissolved in DMF (3 mL). NMM (0.13 mL, 1.1824 mmol) was added, followed by HOAt (0.063 g, 0.4632 mmol) and EDC (0.088 g, 0.459 mmol). After stirring overnight the reaction mixture was purified by RP-HPLC to provide [(2R)-2-(cyclopentylmethyl)-3-(2-{5-fluoro-2-methyl-6-[(2-pyridinylmethyl)amino]-4-pyrimidinyl}hydrazino)-3-oxopropyl][(phenylmethyl)oxy]formamide as a white solid (0.0999 g, 48%). LCMS: (M+H)+=536.3.

reactant | 5-Fluoro-2-methyl-6-[(2-pyridinylmethyl)amino]-4(1H)-pyrimidinone hydrazone | 0.3846 mmol, 0.0954 g | FC=1C(N=C(NC1NCC1=NC=CC=C1)C)=NN | C11H13FN6
reactant | (2R)-3-cyclopentyl-2-({formyl[(phenylmethyl)oxy]amino}methyl)propanoic acid | 0.4622 mmol, 0.141 g | C1(CCCC1)C[C@@H](C(=O)O)CN(OCC1=CC=CC=C1)C=O | C17H23NO4
reactant | NMM | 1.1824 mmol, 0.13 mL | CN1CCOCC1 | C5H11NO
reactant | HOAt | 0.4632 mmol, 0.063 g | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | EDC | 0.459 mmol, 0.088 g
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | [(2R)-2-(cyclopentylmethyl)-3-(2-{5-fluoro-2-methyl-6-[(2-pyridinylmethyl)amino]-4-pyrimidinyl}hydrazino)-3-oxopropyl][(phenylmethyl)oxy]formamide | 0.0999 g, 48% | C1(CCCC1)C[C@H](CN(C=O)OCC1=CC=CC=C1)C(=O)NNC1=NC(=NC(=C1F)NCC1=NC=CC=C1)C | C28H34FN7O3
